US07781438B2
Preparation of (7-Chloro-2-methyl-quinolin-8-yl)-acetic acid tert-butyl ester
n-Butyl lithium (1.6 M in hexane, 5.3 ml, 8.52 mmol, 1.5 equiv) was added at −78° C. under an atmosphere of argon to a degassed solution of hexamethyl disilazide (1.38 g, 8.52 mmol, 1.5 equiv) in toluene (16 ml). After stirring at −78° C. for 15 minutes and at room temperature for 15 minutes, Pd2(dba)3 (156 mg, 0.17 mmol, 0.03 equiv) and (2′-dicyclohexylphosphanyl-biphenyl-2-yl)-dimethyl-amine (141 mg, 0.36 mmol, 0.063 equiv) were added. After stirring at room temperature for 10 minutes, the reaction mixture was cooled to −10° C. and treated dropwise with acetic acid tert-butyl ester (858 mg, 7.38 mmol, 1.3 equiv). After stirring for 10 minutes at −10° C., trifluoro-methanesulfonic acid 7-chloro-2-methyl-quinolin-8-yl ester (1.85 g, 5.68 mmol) was added in one portion, and the cooling bath was removed. The temperature of the reaction mixture rose to 29° C. within the next 30 minutes. After 40 minutes, TLC analysis indicated formation of unwanted side products (e.g. 4-(7-chloro-2-methyl-quinolin-8-yl)-3-oxo-butyric acid tert-butyl ester). The reaction mixture was diluted with water, filtered, and extracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified via flash chromatography (gradient of toluene/EtOAc 100:0 to 95:5) to afford the title compound (662 mg, 40%) as a yellow oil. 1H NMR (400 MHz, CDCl3): δ=7.98 (d, J=12.8 Hz, 1H), 7.63 (d, J=12.8 Hz, 1H), 7.47 (d, J=12.8 Hz, 1H), 7.26 (d, J=12.8 Hz, 1H), 4.43 (s, 2H), 2.72 (s, 3H), 1.47 (s, 9H). MS (ES+): 292.2 (M+H)+.

reactant | n-Butyl lithium | 8.52 mmol, 1.6 M, 5.3 ml, 1.5 equiv | C(CCC)[Li]
reactant | hexamethyl disilazide | 8.52 mmol, 1.38 g, 1.5 equiv | C[Si]([N-][Si](C)(C)C)(C)C
reactant | (2′-dicyclohexylphosphanyl-biphenyl-2-yl)-dimethyl-amine | 0.36 mmol, 141 mg, 0.063 equiv | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
reactant | acetic acid tert-butyl ester | 7.38 mmol, 858 mg, 1.3 equiv | C(C)(C)(C)OC(C)=O | C6H12O2
reactant | trifluoro-methanesulfonic acid 7-chloro-2-methyl-quinolin-8-yl ester | 5.68 mmol, 1.85 g | ClC1=CC=C2C=CC(=NC2=C1OS(=O)(=O)C(F)(F)F)C | C11H7ClF3NO3S
solvent | toluene | 16 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.17 mmol, 156 mg, 0.03 equiv | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (7-Chloro-2-methyl-quinolin-8-yl)-acetic acid tert-butyl ester | 662 mg, 40% | C(C)(C)(C)OC(CC=1C(=CC=C2C=CC(=NC12)C)Cl)=O | C16H18ClNO2
